US09382188B2
step 2) 2-(2-fluoro-5-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
Under a nitrogen atmosphere, to a solution of 2-(3-bromo-4-fluorophenoxy)tetrahydro-2H-pyran (5.05 g) in DMF (92 mL) were added bis(pinacolato)diborane (6.99 g), potassium acetate (5.40 g) and [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(2) (1.34 g) at room temperature, and the mixture was stirred at 100° C. for 20 hr. The reaction mixture was cooled, and filtered. The filtrate was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give a mixture of the title compound (6.19 g). This compound was used for the next step without further purification.

reactant | 2-(3-bromo-4-fluorophenoxy)tetrahydro-2H-pyran | 5.05 g | BrC=1C=C(OC2OCCCC2)C=CC1F | C11H12BrFO2
reactant | bis(pinacolato)diborane | 6.99 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.40 g | C(C)(=O)[O-].[K+]
solvent | DMF | 92 mL | CN(C)C=O | C3H7NO
product | 2-(2-fluoro-5-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.19 g | FC1=C(C=C(C=C1)OC1OCCCC1)B1OC(C(O1)(C)C)(C)C | C17H24BFO4
